US04419357
Reaction of 2-amino-3-methyl-N-(1H-tetrazol-5-yl)benzamide with triethoxymethane gave 8-methyl-3-(1H-tetrazol-5-yl)-4(3H)-quinazolinone melting at about 268° C. (dec) after recrystallization from dimethylformamide.

reactant | 2-amino-3-methyl-N-(1H-tetrazol-5-yl)benzamide | NC1=C(C(=O)NC2=NN=NN2)C=CC=C1C | C9H10N6O
reactant | triethoxymethane | C(C)OC(OCC)OCC | C7H16O3
product | 8-methyl-3-(1H-tetrazol-5-yl)-4(3H)-quinazolinone | CC=1C=CC=C2C(N(C=NC12)C1=NN=NN1)=O | C10H8N6O
